US08202876B2
[6-(5-Amino-pyrazol-1-yl)-pyrimidin-4-yl]-methyl-amine (200 mg, 1.05 mmol) is mixed with N-(3-bromo-4-methyl-phenyl)-3-(4-methyl-piperazin-1-yl)-5-trifluoromethyl-benzamide (640 mg, 1.40 mmol), palladium acetate (60 mg, 0.27 mmol), Xantophos (235 mg, 0.41 mmol) and cesium carbonate (1.03 g, 3.15 mmol). 10 mL of anhydrous 1,4-dioxane is added under nitrogen environment and the mixture is subjected to microwave irradiation to 160° C. for 25 minutes. The reaction mixture is treated with 150 mL THF, passed through a celite column and condensed. The crude product is purified by ISCO chromatography eluting with THF and methanol (v/v=1:1) in methylene chloride from 0% to 10% to afford N-{4-Methyl-3-[2-(6-methylamino-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-(4-methyl-piperazin-1-yl)-5-trifluoromethyl-benzamide.

reactant | [6-(5-Amino-pyrazol-1-yl)-pyrimidin-4-yl]-methyl-amine | 1.05 mmol, 200 mg | NC1=CC=NN1C1=CC(=NC=N1)NC | C8H10N6
reactant | N-(3-bromo-4-methyl-phenyl)-3-(4-methyl-piperazin-1-yl)-5-trifluoromethyl-benzamide | 1.40 mmol, 640 mg | BrC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCN(CC1)C)=O | C20H21BrF3N3O
reactant | cesium carbonate | 3.15 mmol, 1.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.27 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-{4-Methyl-3-[2-(6-methylamino-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-(4-methyl-piperazin-1-yl)-5-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCN(CC1)C)=O)NC=1N(N=CC1)C1=NC=NC(=C1)NC | C28H30F3N9O
